US06136823
Synthesis of 5-Bromo-2-fluoro-4-nitrotoluene
5-Bromo-2-fluorotoluene (7.65 g) was added to concentrated sulfuric acid (40 ml), and potassium nitrate (4.2 g) was added portionwise to the mixture at -20° C. The temperature of the reaction mixture was given back to room temperature to conduct stirring for 3 days, and then poured into ice water to conduct extraction with ethyl acetate. After an organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off to obtain the title compound (9.9 g) as a pale yellow oil.

reactant | 5-Bromo-2-fluorotoluene | 7.65 g | BrC=1C=CC(=C(C1)C)F | C7H6BrF
reactant | potassium nitrate | 4.2 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-2-fluoro-4-nitrotoluene | 9.9 g | BrC=1C(=CC(=C(C1)C)F)[N+](=O)[O-] | C7H5BrFNO2
